US09428528B2
Step 6 Preparation of (4S,5R)-4-Fluoromethyl-5-{4-[2-(methanesulfonylamino-methyl)-imidazo[1,2-a]pyridin-7-yl]-phenyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
To the solution of N-(7-Bromo-imidazo[1,2-a]pyridin-2-ylmethyl)-methane sulfonamide (71 mg. 0.233 mmol) and (4S,5R)-4-Fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidine-3-carboxylic acid tert-butyl ester (111 mg, 0.256 mmol) in dimethoxyethane:water (2.2 mL:0.5 mL) in a microwave tube is added Na2CO3 (62 mg, 0.583 mmol) at room temperature. The resulting reaction mixture is degassed with nitrogen for 30 minutes then added Pd(PPh3)2Cl2 (9 mg, 0.0116 mmol) and heated in microwave at 120° C. for 2 hours. The solvent is evaporated and purified by flash column chromatography eluting in 2% methanol in CH2Cl2 to afford the title compound (75 mg). 1H-NMR (400 MHz, DMSO-d6) δ: 1.44 (s, 9H), 1.51 (s, 3H), 1.64 (s, 3H), 2.92 (s, 3H), 3.83-3.89 (m, 1H), 4.28 (d, J=6.12 Hz, 2H), 4.45-4.55 (m, 1H), 4.65-4.75 (m, 1H), 5.13 (d, J=7.2 Hz, 1H), 7.27-7.29 (dd, J1=1.6 Hz, J2=7.20 Hz, 1H), 7.56-7.58 (m, 3H), 7.82-7.88 (m, 4H), 8.61 (d, J=7.2 Hz, 1H). LC-MS (m/z): [M+H]=533.1.

reactant | N-(7-Bromo-imidazo[1,2-a]pyridin-2-ylmethyl)-methane sulfonamide | 0.233 mmol, 71 mg | BrC1=CC=2N(C=C1)C=C(N2)CNS(=O)(=O)C | C9H10BrN3O2S
reactant | (4S,5R)-4-Fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidine-3-carboxylic acid tert-butyl ester | 0.256 mmol, 111 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C | C23H35BFNO5
reactant | water | 2.2 mL | O | H2O
reactant | Na2CO3 | 0.583 mmol, 62 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)2Cl2 | 0.0116 mmol, 9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4S,5R)-4-Fluoromethyl-5-{4-[2-(methanesulfonylamino-methyl)-imidazo[1,2-a]pyridin-7-yl]-phenyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 75 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C1=CC=2N(C=C1)C=C(N2)CNS(=O)(=O)C)(C)C | C26H33FN4O5S
